US06737409B2
To a stirred suspension of the crude 2-(2-ethoxycarbonyl-vinyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (136 mg) in THF (1 ml) and H2O (1 ml) was added LiOH.H2O (48 mg, 1.14 mmol) at room temperature. The mixture was stirred at room temperature for 17 hr. The mixture was extracted with 1N NaOH and AcOEt. The aqueous layer was acidified with 1N HCl, extracted with AcOEt, washed with saturated aqueous NaCl, dried (MgSO4), and concentrated in vacuo to give 2-(2-carboxy-vinyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a crude oil (109 mg). To a stirred solution of the crude oil (105 mg) in CH3CN (2 ml) were added BOP reagent (306 mg, 0.692 mmol), phenethylamine (87 μl, 0.693 mmol), and diisopropylethylamine (121 μl, 0.695 mmol) at 0° C. The mixture was allowed to warm to room temperature and stirred for 12 hr. After being evaporated in vacuo, the mixture was dissolved in CH2Cl2. The solution was washed with 10% aqueous citric acid, saturated aqueous NaHCO3, and saturated aqueous NaCl, dried (MgSO4, and concentrated in vacuo. The residual oil was purified by preparative TLC (hexane:AcOEt=1:1) to give 3-(N-tert-butoxycarbonyl-2′-pyrrolidinyl)-3-ethylsulfanyl-N-phenylethylpropanamide (104 mg, 67% ) as an oil which was the 5:1 (R:S) mixture of the two diastereomers at the newly formed chiral center determined by 1H-NMR.

reactant | 2-(2-ethoxycarbonyl-vinyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 136 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=CC(=O)OCC | C14H23NO4
reactant | LiOH.H2O | 1.14 mmol, 48 mg | O[Li].O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | H2O | 1 ml | O | H2O
product | 2-(2-carboxy-vinyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C=CC(=O)O | C12H19NO4
